US05322847
1. methyl 3-vinylbenzoate
To a stirred suspension of 590 mg of methyl triphenylphosphonium iodide in 50 ml of dry tetrahydrofuran cooled to -50° C. was added dropwise 5.3 ml of 2.5M n-butyl lithium in hexane. The resulting mixture was allowed to warm to 0° C. over a period of one hour. The mixture was then cooled to -70° C. and 2.0 g of methyl 3-formylbenzoate in 20 ml of dry tetrahydrofuran was added dropwise over a period of 20 minutes. The reaction mixture was allowed to warm to room temperature and stir overnight. The reaction mixture was concentrated in vacuo and the residue treated with water (200 ml) and extracted with diethyl ether (2×200 ml). The extracts were combined, washed with water and a brine solution and dried over magnesium sulfate. Removal of the solvent gave 2 g of an oil which was flash chromatographed on silica gel (30% ethyl acetate--hexane; v:v) , 2.0 g. Distillation in vacuo gave 1.36 g.

reactant | methyl triphenylphosphonium iodide | 590 mg | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 2.5M, 5.3 ml | C(CCC)[Li]
reactant | methyl 3-formylbenzoate | 2.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 3-vinylbenzoate | 2 g | C(=C)C=1C=C(C(=O)OC)C=CC1 | C10H10O2
